US08182718B2
Hab=1-Benzyl-2-methyl-1H-benzimidazole
To a flask were added 2.5 g 2-methylbenzimidazole, 3.9 g potassium carbonate, 60 ml N,N-dimethylformamide and the mixture was stirred under nitrogen. 3.6 g Benzyl chloride were added and the mixture was heated to 6° C. for 16 hours. The reaction was quenched with 80 ml water and cooled to 22 C. The product was extracted twice with 50 ml ethyl acetate and washed with water. Following removal of solvent, the product was dissolved in 100 ml hexane and washed with two portions of water. After drying the hexane layer over sodium sulfate, the mixture was filtered and stripped down to an orange oil.

reactant | 2-methylbenzimidazole | 2.5 g | CC=1NC2=C(N1)C=CC=C2 | C8H8N2
reactant | potassium carbonate | 3.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | Benzyl chloride | 3.6 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 1-Benzyl-2-methyl-1H-benzimidazole | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC=C2)C | C15H14N2
